US04677115
Step A: Preparation of 5,6-Dihydro-4-isobutyrylamino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
Under N2 was added 5,6-dihydro-4-amino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxidehydrochloride (3.2 g, 0.01 mol), triethylamine (2.2 g, 0.022 mol) and THF (100 ml). The mixture was stirred at room temperature while a solution of isobutyryl chloride (1.12 g, 0.0105 mol) in THF (10 ml) was added dropwise. After 18 hours, the mixture was poured onto saturated NaHCO3 and the suspension was extracted with ethyl acetate (3X). The combined organic extracts were dried, filtered and concentrated to dryness to yield 3.2 g (91%) of product.

reactant | 5,6-dihydro-4-amino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxidehydrochloride | 0.01 mol, 3.2 g | Cl.NC1C2=C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N
reactant | triethylamine | 0.022 mol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.0105 mol, 1.12 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5,6-Dihydro-4-isobutyrylamino-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 3.2 g, 91% | C(C(C)C)(=O)NC1C2=C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N | C11H16N2O5S3
